### PR TITLE
feat: new theorems

### PR DESCRIPTION
**Pull request by AnotherAlexHere**
Adding some new theorems from chapter two.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
Lovely. @AtticusKuhn and or @Equilibris, could you do a review here?

**Comment by AtticusKuhn** [comment]
> Lovely. @AtticusKuhn and or @Equilibris, could you do a review here?

Sure, I can review this

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 1]
```diff
@@ -9,27 +9,55 @@ namespace HackersDelight
...
-theorem neg_eq_not_add_one {x : BitVec w} :
-    -x = ~~~x + 1 := by
-  exact BitVec.neg_eq_not_add x
-
 theorem not_eq_neg_sub_one {x : BitVec w} :
     ~~~ x = -x - 1 := by
   apply BitVec.eq_sub_iff_add_eq.mpr
   rw [BitVec.neg_eq_not_add]
 
+theorem not_and_eq_not_or_not {x y : BitVec w} :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: It's up to you stylistically, but you could lift out the implicit variable declaration

```suggestion
variable {x y : BitVec w}
theorem not_and_eq_not_or_not :
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 2]
```diff
@@ -9,27 +9,55 @@ namespace HackersDelight
...
+    ~~~ (x &&& y) = ~~~ x ||| ~~~ y := by
+  sorry
+
+theorem not_or_eq_not_and_not {x y : BitVec w} :
+    ~~~ (x ||| y) = ~~~ x &&& ~~~ y := by
+  sorry
+
+theorem not_add_eq_not_sub_one {x : BitVec w} :
+    ~~~ (x + 1) = ~~~ x - 1 := by
+  repeat rw [not_eq_neg_sub_one]
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: Semantically, it's the same, but you may prefer `simp only` to `repeat rw`, because the former tactic will throw an error if it makes no progress.

```suggestion
  simp only [not_eq_neg_sub_one]
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 3]
```diff
@@ -105,6 +137,26 @@ theorem and_eq_not_or_sub_not {x y : BitVec w} :
...
+
+theorem and_le_not_xor {x y : BitVec w} :
+    x &&& y ≤ ~~~(x ^^^ y) := by
+  sorry
+
+theorem or_le_add {x y : BitVec w} (h : x.toFin + y.toFin < 2^w) :
+    x ||| y ≤ x + y := by
+  sorry
+
+theorem add_l_or {x y : BitVec w} (h : x.toFin + y.toFin ≥ 2^w) :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: I would call this theorem "add_lt_or"
```suggestion
theorem add_lt_or {x y : BitVec w} (h : x.toFin + y.toFin ≥ 2^w) :
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 4]
```diff
@@ -105,6 +137,26 @@ theorem and_eq_not_or_sub_not {x y : BitVec w} :
...
+    x + y < x ||| y := by
+  sorry
+
+theorem eq_imp_abs_sub_sub {x y : BitVec w} :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: I would call this theorem "eq_iff_abs_sub_sub"
```suggestion
theorem eq_iff_abs_sub_sub {x y : BitVec w} :
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 5]
```diff
@@ -9,27 +9,55 @@ namespace HackersDelight
...
+theorem not_xor_eq_not_xor {x y : BitVec w} :
+    ~~~ (x ^^^ y) = ~~~ x ^^^ y := by
+  sorry
+
+theorem not_add_eq_not_sub {x y : BitVec w} :
+    ~~~ (x + y) = ~~~ x - y := by
+  repeat rw [not_eq_neg_sub_one]
+  ring
+
+theorem not_neg_eq_not_add {x y : BitVec w} :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: I would call this theorem "not_sub_eq_not_add"

```suggestion
theorem not_sub_eq_not_add {x y : BitVec w} :
```

**Review by AtticusKuhn — APPROVED** [review]
Looks good to me.

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 6]
```diff
@@ -105,6 +137,26 @@ theorem and_eq_not_or_sub_not {x y : BitVec w} :
...
 
+theorem xor_le_or {x y : BitVec w} :
+    x ^^^ y ≤ x ||| y := by
+  sorry
+
+theorem and_le_not_xor {x y : BitVec w} :
+    x &&& y ≤ ~~~(x ^^^ y) := by
+  sorry
+
+theorem or_le_add {x y : BitVec w} (h : x.toFin + y.toFin < 2^w) :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: Semantically, it's the same, but it may be slightly clearer to give a label to the property of "no overflows"

```suggestion
def AdditionNoOverflows? (x y : BitVec w) : Prop := (x.adc y false).1

theorem or_le_add  (h : AdditionNoOverflows? x y) :
    x ||| y ≤ x + y := by
  sorry
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 7]
```diff
@@ -105,6 +138,30 @@ theorem and_eq_not_or_sub_not {x y : BitVec w} :
...
+    x &&& y ≤ ~~~(x ^^^ y) := by
+  sorry
+
+def AdditionNoOverflows? (x y : BitVec w) : Prop := (x.adc y false).1
+
+theorem or_le_add  (h : AdditionNoOverflows? x y) :
+    x ||| y ≤ x + y := by
+  sorry
+    x ||| y ≤ x + y := by
+  sorry
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/HackersDelight.lean]: This seems broken?

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 8]
```diff
@@ -9,27 +9,56 @@ namespace HackersDelight
...
 namespace Ch2Basics
 
-theorem neg_add_eq_neg_sub {x: BitVec w } :
-    -(x + y) = -x - y := by
-  ring
-
-theorem neg_eq_not_add_one {x : BitVec w} :
-    -x = ~~~x + 1 := by
-  exact BitVec.neg_eq_not_add x
-
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/HackersDelight.lean:19]: Why do you delete these?

Comment (AnotherAlexHere) [reply SSA/Projects/InstCombine/HackersDelight.lean:19]: duplicate

File: SSA/Projects/InstCombine/HackersDelight.lean (hunk 7 above)
Comment (AnotherAlexHere) [reply SSA/Projects/InstCombine/HackersDelight.lean]: Yes, fixed now.

**Comment by tobiasgrosser** [comment]
@AtticusKuhn, if this is now fine, maybe you and @AnotherAlexHere can merge this today?
